US07238716B2
To a mixture of methyl 2-[3-[[2-[2-(5-methyl-2-phenyl-4-oxazolyl)ethyl]-4-thiazolyl]methoxy]phenyl]acetate (0.31 g), tetrahydrofuran (3 mL) and methanol (3 mL) was added a 1N aqueous sodium hydroxide solution (3 mL) and the mixture was stirred at 50° C. for 1 hr. 1N Hydrochloric acid (3 mL) and water were added to the reaction mixture, and the precipitated crystals were collected by filtration and air-dried to give crystals (0.23 g, 77%) of 2-[3-[[2-[2-(5-methyl-2-phenyl-4-oxazolyl)ethyl]-4-thiazolyl]methoxy]phenyl]acetic acid. Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 153-154° C.

reactant | methyl 2-[3-[[2-[2-(5-methyl-2-phenyl-4-oxazolyl)ethyl]-4-thiazolyl]methoxy]phenyl]acetate | 0.31 g | CC1=C(N=C(O1)C1=CC=CC=C1)CCC=1SC=C(N1)COC=1C=C(C=CC1)CC(=O)OC | C25H24N2O4S
reactant | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
reactant | sodium hydroxide | 1N, 3 mL | [OH-].[Na+]
reactant | Hydrochloric acid | 1N, 3 mL | Cl | ClH
solvent | water | O | H2O
solvent | methanol | 3 mL | CO | CH4O
product | 2-[3-[[2-[2-(5-methyl-2-phenyl-4-oxazolyl)ethyl]-4-thiazolyl]methoxy]phenyl]acetic acid | 0.23 g, 77% | CC1=C(N=C(O1)C1=CC=CC=C1)CCC=1SC=C(N1)COC=1C=C(C=CC1)CC(=O)O | C24H22N2O4S
